US04022786
When proceeding as described in Example 2, but replacing 1-methyl-3-benzoyl-4-hydroxy-4-phenylpiperidine (used as starting material in said example) by 1-(3-hydroxypropyl)-3-benzoyl-4-hydroxy-4-phenylpiperidine and reacting 80 g. thereof with benzene in the presence of aluminum chloride, 50 g. of 1-(3-hydroxypropyl)-4,4-diphenylpiperidine are obtained. The boiling point of said crude base is from 173° to 182° C./0.01 mm. Hg. Its hydrochloride has a melting point of 233° to 234.5° C.

reactant | 1-(3-hydroxypropyl)-3-benzoyl-4-hydroxy-4-phenylpiperidine | OCCCN1CC(C(CC1)(C1=CC=CC=C1)O)C(C1=CC=CC=C1)=O | C21H25NO3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(3-hydroxypropyl)-4,4-diphenylpiperidine | OCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H25NO
